US04954497
In dimethylformamide (30 ml) was dissolved N-methylaniline (1.2 g). To the solution was added 60% sodium hydride (dispersion in praraffin) (150 mg), and the mixture was stirred for 30 minutes. Then there was added 2-chloro-5-(3,4-dimethoxybenzoyl)pyridine (500 mg). The mixture was stirred for 4 hours at 90° C. The reaction mixture was poured into ice-water, which was subjected to extraction with dichloromethane. The organic layer was washed with water, dried over anhydrous sodium sulfate and concentrated under reduced pressure. The concentrate was purified by means of a silica gel column chromatography (eluent: n-hexane +ethyl acetate=2:1) to obtain 5-(3,4-dimethoxybenzo-yl)-2-(N-methylanilino)pyridine (200 mg) as an oil.

reactant | N-methylaniline | 1.2 g | CNC1=CC=CC=C1 | C7H9N
reactant | sodium hydride | 150 mg | [H-].[Na+]
reactant | 2-chloro-5-(3,4-dimethoxybenzoyl)pyridine | 500 mg | ClC1=NC=C(C=C1)C(C1=CC(=C(C=C1)OC)OC)=O | C14H12ClNO3
solvent | dimethylformamide | 30 ml | CN(C=O)C | C3H7NO
product | 5-(3,4-dimethoxybenzo-yl)-2-(N-methylanilino)pyridine | 200 mg | COC=1C=C(C(=O)C=2C=CC(=NC2)N(C2=CC=CC=C2)C)C=CC1OC | C21H20N2O3
